US04658039
Cinnamyl 1-(4-chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxyacetate (acemetacin cinnamyl ester)
10 g of indometacin, 4 g of potassium carbonate, 0.3 g of benzyltriethylammonium chloride and 50 ml of acetone are stirred for 30 minutes at 50°-60° C. After addition of 6.32 g of cinnamyl chloroacetate stirring is continued for 3 to 4 hours at 40° C. (check by thin layer chromatography). After filtration, and distilling off the solvent, the residue is recrystallized first from ether/petroleum ether and then from acetone/water.

reactant | indometacin | 10 g | CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)O | C19H16ClNO4
reactant | potassium carbonate | 4 g | C([O-])([O-])=O.[K+].[K+]
reactant | cinnamyl chloroacetate | 6.32 g | ClCC(=O)OCC=CC1=CC=CC=C1 | C11H11ClO2
catalyst | benzyltriethylammonium chloride | 0.3 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | Cinnamyl 1-(4-chlorobenzoyl)-5-methoxy-2-methyl-3-indoleacetoxyacetate | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CC(=O)OCC(=O)OCC=CC2=CC=CC=C2)C)C=C1 | C30H26ClNO6
